US06911458B2
i) tert-Butyl 4-piperidinylcarbamate
Di-tert-butyl-dicarbonate (11.6 g, 53.16 mmol) was added to a solution of 1-benzyl-4-piperidinamine (13.10 g, 68.84 mmol) in dichloromethane (100 ml) and triethylamine (2 ml) and the solution was stirred at room temperature for 2 hrs. Water was added to the solution and the organic layer was separated, dried over natrium sulphate, filtered and concentrated. The resulting residue was taken up into ethanol. Palladium hydroxide 20% (500 mg) was added to the solution and the mixture was hydrogenated (parr apparatus) over 50 psig hydrogen for 48 hrs. The mixture was filtered over a pad of celite. The solid was washed with two portions of hot ethanol and concentrated in vacuo to give 8.85 g product.

reactant | Di-tert-butyl-dicarbonate | 53.16 mmol, 11.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-benzyl-4-piperidinamine | 68.84 mmol, 13.10 g | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | Water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | tert-Butyl 4-piperidinylcarbamate | 8.85 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
